US07888364B2
88 mg of 4-(bromomethyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide was coupled to 45 mg of 1H-1,2,4-triazole via Procedure P. The reaction was evaporated to dryness and purified by reverse phase HPLC to yield 4-((1H-1,2,4-triazol-1-yl)methyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. MS (Q1) 390 (M)+.

reactant | 4-(bromomethyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | 88 mg | BrCC1=CC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C19H14BrClN2O
reactant | 1H-1,2,4-triazole | 45 mg | N1N=CN=C1 | C2H3N3
product | 4-((1H-1,2,4-triazol-1-yl)methyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | N1(N=CN=C1)CC1=CC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C21H16ClN5O
